Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / clams
 
Attending: ___.
 
Chief Complaint:
Edema and tachycardia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with ___ PMH Breast CA s/p 
___ positive PBC, colonic 
adenoma, basal cell carcinoma, squamous cell carcinoma, 
psoriasis on Enbrel who was sent in from her PCP's office for 
concerning EKG changes in the setting of left lower extremity 
edema. Patient states that she has returned recently from a trip 
overseas and the following day developed progressively worsening 
left lower extremity and right lower extremity edema, as well as 
left upper extremity edema. Overall, feels the swelling has 
improved. Had no chest pain, but does endorse progressively 
worsening dyspnea on exertion, weight loss of 40 pounds in the 
last 15 months (unintentional), decreased exercise tolerance, 
and orthopnea - per ED but to me she denies orthopnea. Her 
daughter ___ notices that she has episodes of rapid breathing 
when she is laying in bed. She denies chest pain, fever/chills, 
night sweats, recent
illnesses, GI and GU symptoms. Of note, the patient had back 
pain approximately 1 month ago, which is since resolved. Denies 
current back pain. Does endorse left calve pain.

She reports decreased mobility in her L leg along with mild back 
stiffness since ___. She has lost 45 over the past 15 
months. She returned from ___ in ___ and she had a decreased 
appetite since then. She doesn't have nausea. She doesn't have 
anoxrexia. She had some mild early satiety. In the morning she 
would have an occasional phleggmy cough in the morning then it 
resolved a month or two ago. No fevers or chills. She does not 
have any nausea or vomiting. She had a negative mammogram in 
___ at ___. She had a negative colonoscopy in ___ and 
hasn't had one since. 

======================================
VS on presentation to the ED: 
97.8 |113 |195/108 |0 |4% RA 
She received ibuprofen 600 mg x T.

===============================
ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative.
 
Past Medical History:
1) ___ breast cancer diagnosed over ___ years ago,
completed tamoxifen therapy and followed by Dr. ___ at
___.
2) History of osteopenia, undergoes DEXA ___ through
___. 
3) Elevated BP.
4) Elevated BMI.
5) Psoriasis on enbrel
___ primary biliary cholangitis
 
Social History:
___
Family History:
Her mother had bone cancer at age ___. Her uncle died of lung 
cancer. 
 
Physical Exam:
VITALS: 98.0 PO 175 / ___ 96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, ___ SEM at RUSB with radiation to the 
carotids
JVP elevated at 45degrees
___ pitting edema b/l L > R
2+ R DPP and 2+ L ___ 
RESP: Decreased breath sounds and egaphony in L lower lung 
field.
Breathing is ___
GI: Abdomen soft, ___ to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
144  ___   AGap=15 
=============\ 
3.6  23  1.3  

=====================
___: <0.01  
Ca: 9.7 Mg: 2.1 P: 4.1

====================
ALT: 15 AP: 170 Tbili: 0.3 Alb: 3.7 
AST: 26 LDH:  Dbili:  TProt:  
___:  Lip:      
Other Blood Chemistry:
proBNP: 434

===================
8.9 \10.9/ 301    
    /34.6\  
 N:78.2 L:9.0 M:9.7 E:2.5 Bas:0.4 ___: 0.2 Absneut: 6.95
Abslymp: 0.80 Absmono: 0.86 Abseos: 0.22 Absbaso: 0.04  
___: 15.3  PTT: 29.5  INR: 1.4  
___: ___ 
________________________________________

# LLENI (___): No evidence of deep venous thrombosis in the 
left lower extremity veins. There is diffuse subcutaneous edema 
in the left calf.

# CXR (___): Retrocardiac opacification may represent left 
lower lobe pneumonia in the correct clinical setting, however 
effusion and or mass could have a similar appearance.  

# Chest CT (___): 1. ___ pleural thickening with small 
to moderate loculated left pleural effusion with consolidation 
in the left lower lobe, potentially pneumonia though more 
concerning for malignancy.  Multiple osseous lesions concerning 
for metastatic disease. 2. There are two hypodense opacities 
within the liver which are incompletely characterized on the 
current exam.  In addition there are multiple suspicious splenic 
lesions, the largest of which measures up to 2.4 cm.  Metastatic 
disease not excluded. 3. Bilateral mild hydronephrosis of 
indeterminate etiology and no definite obstructing lesion 
identified.  There is a punctate, nonobstructive stone in the 
left mid ureter.
4. Suggestion of colonic thickening in the distal  
descending/proximal sigmoid colon.  This finding may represent 
the sequelae of chronic inflammation or be due to 
underdistention.
5. Chronic appearing compression deformity of L1 and possible 
chronic sacral insufficiency fractures. 6. The ascending 
thoracic aorta is aneurysmal measuring 4.1 cm in axial diameter.
7. Calcified soft tissue within left breast as well as small 
calcifications in a ductal distribution and possible left breast 
skin thickening. 8. Possible segmental thrombus within a branch 
of the left portal vein.
. 
 
Brief Hospital Course:
___ h/o poorly controlled HTN, remote history of tobacco use, 
remote h/o breast cancer, Psoriasis on enbrel, ___ PBC 
who presents with dyspnea on exertion, tachycardia, 
unintentional weight loss

# MURMUR/ELEVATED JVP AND LOWER EXTREMITY EDEMA/DYSPNEA ON 
EXERTION
# ACUTE HEART FAILURE PRESUMED TO BE DIASTOLIC IN ETIOLOGY GIVEN 
LVH ON ECG and chest CT
# HTN - uncontrolled (has refused antihypertensive as outpt)
   Has significant peripheral edema in ___ (L>R) and LUE.  No 
evidence of DVT on ___. CTA was negative for PE.  With evidence 
of thickened LV wall on CT scan and LVH on EKG in setting of 
persistent hypertension, her CHF symptoms are likely attributed 
to diastolic dysfunction iso persistent HTN.  
    She was given IV lasix with good response.  She was later 
initiated with PO lasix with also good response - nearly 1 L net 
out since admission.  She understands the importance of 
continuing with the PO lasix to get rid of the extra fluid. 
    She was also started on PO metoprolol (for both HR, BP 
control) with good effect (SBP 140s), HR ___.  She understands 
the importance of getting her BP in good control for helping 
managing the diastolic CHF in the long run.   She would benefit 
from obtaining a TTE, but was unable to obtain here in the 
hospital due to the ___.  She can obtain this as 
an outpt.   She was ambulatory with no O2 requirements.  She was 
discharged home in stable condition. 

# METASTATIC CANCER OF UNKNOWN ETIOLOGY: 
   CT scan showing possible involvement of L pleural space, 
liver, spleen, L breast, bone (& less likely colon, pelvis).  
Unclear primary, possibly breast although recent mammogram WNL.  
Declined colonoscopy (in past).  At higher risk of malignancy 
given past cancers and Enbrel use. 
    She made it clear that she prefers to get workup at ___ 
since she her past oncological care occurred there (declines 
having the biopsy here and would prefer to be discharged to seek 
care at ___).  She assures that she will be able to be seen 
there on ___ or ___.   
.
# ABNORMAL ECG:
pt denies chest pain and looks very well.  Trop x2 neg. 
.
.
# MILD BACK PAIN ? SCIATICA
 She was admitted with mild back pain at this time and no report 
of weakness
or numbness.  She was able to ambulate to BR without difficulty. 
 Can potentially obtain spine MRI as outpt to further valuate, 
but defer now given lack of urgency or evidence that it would 
change management. 
.
CHRONIC/STABLE PROBLEMS:
# Psoriasis: continue steroid creams prn and enebrel
# PBC: Continue o/p f/u and ursodiol

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: regular diet
# Functional status: Independent
# Bowel Function:  bowel regimen prn 
# Lines/Tubes/Drains:PIV
# Precautions: None
# VTE prophylaxis: lovenx
# Contacts/HCP/Surrogate and Communication: ___- dtr and HCP
# Code Status/Advance Care Planning: FULL code for now - d/w dtr 
and pt. Very open to changing goals of care once her diagnosis 
is known given her experience with her husband.  
# Disposition: Home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcipotriene 0.005% Cream 1 Appl TP BID:PRN rash 
2. Calcium 600 + D(3) (calcium ___ D3) 600 
mg(1,500mg) -400 unit oral DAILY 
3. EnbreL (etanercept) 25 mg (1 mL) subcutaneous 1X/WEEK 
4. Ursodiol 500 mg PO BID 
5. Clobetasol Propionate 0.05% Cream 1 Appl TP BID:PRN rash 

 
Discharge Medications:
1.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Calcipotriene 0.005% Cream 1 Appl TP BID:PRN rash  
4.  Calcium 600 + D(3) (calcium ___ D3) 600 
mg(1,500mg) -400 unit oral DAILY  
5.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID:PRN rash  
6.  EnbreL (etanercept) 25 mg (1 mL) subcutaneous 1X/WEEK  
7.  Ursodiol 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diastolic heart failure - peripheral edema
HTN
Possible metastatic cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

     It was a pleasure looking after you.  As you know, you were 
admitted from the primary care doctor's office for concern of 
increased fluid retention, leg swelling and EKG changes.  Workup 
here revealed that there was NO evidence of a myocardial 
infarction ("heart attack) or lung clot based on the blood tests 
and CT scan.
   
    You responded well to the lasix (diuretic).  You should 
continue with lasix to help get rid of the extra fluid.  Please 
monitor your weight - and inform your primary care doctor when 
the weight starts to stop decreasing in magnitude.  At that 
time, you may benefit from reducing the dose.

    As noted, your persistent high blood pressure may have 
contributed to the heart failure (retention of fluid) over time. 
 For this, please continue to take the metoprolol as prescribed. 
 You would also benefit from an Echocardiogram to assess overall 
heart function - but this can be done as an outpatient whenever 
next available.   Avoid ___ foods, if possible.

    We discussed the CT scan findings - and there were some 
concern of cancer involvement in some organs.  Per your 
preference, please follow up with your ___ doctors to 
determine the next steps.   
  
    We wish you Happy Thanksgiving, quick recovery and good 
health!

Your ___ Team
 
Followup Instructions:
___